US06156700
Preparation of 3-[3-(6-Methoxy-3,4-xylyl)-1,2-benzisothiazol-5-yl]-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione
A mixture of 5-amino-3-(6-methoxy-3,4-xylyl)-1,2-benzisothiazole (8.53 g, 30.0 mmol), 2-dimethylamino-4-(trifluoromethyl)-6H-1,3-oxazin-6-one (6.87 g, 33.0 mmol) and acetic acid is refluxed for 2 hours, cooled, and poured into water. The resultant aqueous mixture is filtered to obtain a solid. A solution of the solid in methylene chloride is washed sequentially with water and brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo to obtain an oil. Column chromatography of the oil using silica gel and a 5% diethyl ether in methylene chloride solution gives the title product as a yellow foam (8.37 g, 62.0%) which is identified by NMR spectral analyses.

reactant | 5-amino-3-(6-methoxy-3,4-xylyl)-1,2-benzisothiazole | 30.0 mmol, 8.53 g | NC=1C=CC2=C(C(=NS2)C2=CC(=C(C=C2OC)C)C)C1 | C16H16N2OS
reactant | 2-dimethylamino-4-(trifluoromethyl)-6H-1,3-oxazin-6-one | 33.0 mmol, 6.87 g | CN(C=1OC(C=C(N1)C(F)(F)F)=O)C | C7H7F3N2O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-[3-(6-Methoxy-3,4-xylyl)-1,2-benzisothiazol-5-yl]-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 8.37 g, 62.0% | COC1=CC(=C(C=C1C1=NSC2=C1C=C(C=C2)N2C(NC(=CC2=O)C(F)(F)F)=O)C)C | C21H16F3N3O3S
